US04067913
A process for the preparation of 4-bromo-2,5-dichlorophenol which comprises reacting a mixture of 2,5-dichlorophenol and 2,4-dichlorophenol obtained by saponifying 1,2,4-trichlorobenzene and distilling 3,4-dichlorophenol from the resulting mixture, with an equimolar amount of bromine in a glacial acetic acid reaction medium at a temperature of about 30° C. and thereafter recovering the 4-bromo-2,5-dichlorophenol.

reactant | 4-bromo-2,5-dichlorophenol | BrC1=CC(=C(C=C1Cl)O)Cl | C6H3BrCl2O
reactant | 2,5-dichlorophenol | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
product | 1,2,4-trichlorobenzene | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
